US06797711B2
Synthesis of 5,5-diphenylpentanoic acid
5,5-Diphenylpenta-2,4-dienoic acid (0.90 g) was dispersed in methanol (15 mL), and 5% palladium-carbon (90 mg) was added thereto. The mixture was subjected to catalytic reduction for two hours under hydrogen. The insoluble matter was separated through filtration and washed with methanol. The filtrate was subjected to distillation under reduced pressure, to thereby yield 0.89 g of the product of interest (yield 97.3%).

reactant | 5,5-Diphenylpenta-2,4-dienoic acid | 0.90 g | C1(=CC=CC=C1)C(=CC=CC(=O)O)C1=CC=CC=C1 | C17H14O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium-carbon | 90 mg | [C].[Pd]
product | 5,5-diphenylpentanoic acid | yield 97.3% | C1(=CC=CC=C1)C(CCCC(=O)O)C1=CC=CC=C1 | C17H18O2
